US07087604B2
1,2,3,6-Tetrahydropyridine (10.4 g) was dissolved in THF (400 mL) and water (120 mL) prior to the addition of Et3N (35 mL). This was cooled to 0° C. and Boc2O (27.3 g) was added. The reaction was warmed to rt and stirred overnight. The reaction was quenched with water and EtOAc. The EtOAc layer was washed with 1 N HCl solution, NaHCO3 solution, and brine. The organic layer was dried, filtered, and concentrated. This material was dissolved in CH2Cl2 and was added dropwise to a cooled (0° C.) solution of 77% mCPBA (20.4 g) in CH2Cl2 (240 mL). The reaction was warmed to rt and was stirred overnight. The solids were filtered off and discarded. The filtrate was washed with saturated NaHCO3 solution (aq) and 10% Na2S2O3 solution (aq) and brine. The organic layer was dried, filtered, and concentrated. Flash chromatography of the resulting residue gave (±)1-(tert-butoxycarbonyl)-3,4-epoxypiperidine (7.6 g). MS found: (M+H)+=199.9.

reactant | 1,2,3,6-Tetrahydropyridine | 10.4 g | N1CCC=CC1 | C5H9N
reactant | water | 120 mL | O | H2O
reactant | Et3N | 35 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 27.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (±)1-(tert-butoxycarbonyl)-3,4-epoxypiperidine | 7.6 g | C(C)(C)(C)OC(=O)N1CC2C(CC1)O2 | C10H17NO3
